US07893099B2
Step 7: (1R,2R,4S)-4-benzenesulfonyl-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid
To a solution of (1R,2R,4S)-4-benzenesulfonyl-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester (1.35 mmol) in THF (10 ml) was added a solution of LiOH (3.0 mmol) in water (3 ml) and methanol (3 ml) and stirring was continued at 22° C. until completion of the reaction. The mixture was evaporated and the residue partitioned between ethyl acetate and hydrochloric acid (0.1 N). The organic layer was dried and evaporated to give the title compound as a colorless foam. MS: 368.1 (M+H)+.

reactant | (1R,2R,4S)-4-benzenesulfonyl-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester | 1.35 mmol | C(C)OC(=O)[C@H]1[C@@H](C[C@@H](C1)S(=O)(=O)C1=CC=CC=C1)C(=O)N1CCOCC1 | C19H25NO6S
reactant | LiOH | 3.0 mmol | [Li+].[OH-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 3 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
product | (1R,2R,4S)-4-benzenesulfonyl-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid | C1(=CC=CC=C1)S(=O)(=O)[C@H]1C[C@H]([C@@H](C1)C(=O)O)C(=O)N1CCOCC1 | C17H21NO6S
